US08664288B2
1,3-Dicyclohexyl-O—(N-isopropylideneamino)-isourea (Cmpd. 3)
To a solution of acetone oxime (3.65 g, 0.05 mol) in dry THF (35 ml) is added finely powdered NaOH (0.2 g) and dicyclohexylcarbodiimide (10.3 g, 0.05 mol). The mixture is then stirred 5 h at room temperature under argon. The turbid mixture is thereafter diluted with hexane (30 ml) filtered and evaporated under reduced pressure to afford 13.8 g of the title compound as a slightly yellow liquid.

reactant | acetone oxime | 0.05 mol, 3.65 g | CC(C)=NO | C3H7NO
reactant | NaOH | 0.2 g | [OH-].[Na+]
reactant | dicyclohexylcarbodiimide | 0.05 mol, 10.3 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | THF | 35 ml | C1CCOC1 | C4H8O
solvent | hexane | 30 ml | CCCCCC | C6H14
product | 1,3-Dicyclohexyl-O—(N-isopropylideneamino)-isourea | 13.8 g | C1(CCCCC1)NC(ON=C(C)C)=NC1CCCCC1 | C16H29N3O
